US07462650B2
Synthesis of 1-(4-{Bromo-[4-(2-hydroxy-2-methyl-propionyl)-phenyl]-methyl}-phenyl)-2-hydroxy-2-methyl-propan-1-one
11.2 g (0.063 mol) N-bromosuccinimide, and 0.12 g AIBN (2,2-azobis(2-methylpropionitrile)) were suspended in 50 ml carbon tetrachloride and heated to 40° C. under argon. Then a solution of 20.45 g (0.06 mol) of 2-Hydroxy-1{-4-[4-(2-hydroxy-2-methyl-propionyl)-benzyl]-phenyl}2-methyl-propan-1-one (known from PCT Int. Appl. WO 2003040076) in 50 ml carbon tetrachloride was added dropwise over 15 min. After stirring at 75° C. for 3 h, the reaction mixture was cooled to 25° C., filtered, and washed neutral with water, dried over magnesium sulfate and concentrated by evaporation. The raw product (28.4 g) was a brownish resin that was pure enough for further derivatization of the benzylic bromide. The structure was confirmed by 1H-NMR (CDCl3): δ [ppm]: 8.04 (d, 4H), 7.53 (d, 4H), 6.28 (s, 1H, benzylic), 3.95, (s, 2H, OH), 1.61 (s, 12H),

reactant | N-bromosuccinimide | 0.063 mol, 11.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.12 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 2-Hydroxy-1{-4-[4-(2-hydroxy-2-methyl-propionyl)-benzyl]-phenyl}2-methyl-propan-1-one | 0.06 mol, 20.45 g | OC(C(=O)C1=CC=C(C=C1)CC1=CC=C(C=C1)C(C(C)(C)O)=O)(C)C | C21H24O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4-{Bromo-[4-(2-hydroxy-2-methyl-propionyl)-phenyl]-methyl}-phenyl)-2-hydroxy-2-methyl-propan-1-one | BrC(C1=CC=C(C=C1)C(C(C)(C)O)=O)C1=CC=C(C=C1)C(C(C)(C)O)=O | C21H23BrO4
